US04550105
In 1 ml of water is dissolved 50 mg of the above 3-amino 2-oxoazetidine-1-sulfonic acid, followed by addition of a solution of 69 mg phenylacetyl chloride in 1 ml tetrahydrofuran and 101 mg of sodium hydrogen carbonate in alternate portions with ice-cooling and stirring. After stirring at room temperature for 30 minutes, the mixture is adjusted to pH 5.8 with phospheric acid. The tetrahydrofuran is then distilled off under reduced pressure. The water layer is washed with ethyl acetate and purified by XAD-II chromatography, whereby 42 mg of sodium 3-phenylacetamido-2-oxoazetidine-1-sulfonate is obtained.

reactant | 3-amino 2-oxoazetidine-1-sulfonic acid | 50 mg | NC1C(N(C1)S(=O)(=O)O)=O | C3H6N2O4S
reactant | phenylacetyl chloride | 69 mg | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | sodium hydrogen carbonate | 101 mg | C(O)([O-])=O.[Na+]
solvent | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | sodium 3-phenylacetamido-2-oxoazetidine-1-sulfonate | 42 mg | C1(=CC=CC=C1)CC(=O)NC1C(N(C1)S(=O)(=O)[O-])=O.[Na+] | InChI=1S/C11H12N2O5S.Na/c14-10(6-8-4-2-1-3-5-8)12-9-7-13(11(9)15)19(16,17)18;/h1-5,9H,6-7H2,(H,12,14)(H,16,17,18);/q;+1/p-1
